US04291022
(d) Z-(D)Phe-Cys(MBzl)-Nle-Asn-Phe-Phe-NHNH2
5 ml of hydrazine-hydrate are added to 5 g of Z-(D)Phe-Cys(MBzl)-Nle-Asn-Phe-Phe-OMe in 80 ml dimethylformamide and the mixture allowed to stand for 2 days at room temperature. The title compound is obtained after precipitation with methanol, filtration, washing with methanol and drying: [α]D20 =-32° (c=1.0 in dimethylformamide); decomposition at 248° C.

reactant | hydrazine-hydrate | 5 ml | O.NN
reactant | Z-(D)Phe-Cys(MBzl)-Nle-Asn-Phe-Phe-OMe | 5 g | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C57H67N7O10S
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Z-(D)Phe-Cys(MBzl)-Nle-Asn-Phe-Phe-NHNH2 | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C56H67N9O9S
